************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G1_INV1_N3
* View Name:     schematic
* Netlisted on:  Feb 18 18:37:29 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/rules_N3/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G1_INV1_N3
* View Name:    schematic
************************************************************************

.SUBCKT G1_INV1_N3 A Vdd Vss Z
*.PININFO A:I Z:O Vdd:B Vss:B
XI5 Z Vdd A Vdd Vss / TIGFET_PCELL_SP15CP15_N3
XI6 Z Vss A Vss Vdd / TIGFET_PCELL_SP15CP15_N3
.ENDS

